US08809371B2
A 1,4-dioxane (100 ml) solution containing N-chlorosuccinimide (4.15 g) was added dropwise to a 1,4-dioxane (50 ml) solution containing triphenylphosphine (8.58 g) at 50° C., followed by stirring for 30 minutes. 5-fluoro-6-oxo-2-(quinolin-6-ylamino)-1,6-dihydropyridin-3-carbonitrile (2.61 g) was added to the reaction mixture, followed by stirring at 70° C. for 3 hours. The reaction mixture was cooled to room temperature. Then solid matter was collected by filtration and was washed with tetrahydrofuran, and a gray solid of 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile (2.34 g) was thus obtained.

reactant | N-chlorosuccinimide | 4.15 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | triphenylphosphine | 8.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-fluoro-6-oxo-2-(quinolin-6-ylamino)-1,6-dihydropyridin-3-carbonitrile | 2.61 g | FC1=CC(=C(NC1=O)NC=1C=C2C=CC=NC2=CC1)C#N | C15H9FN4O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile | 2.34 g | ClC1=NC(=C(C#N)C=C1F)NC=1C=C2C=CC=NC2=CC1 | C15H8ClFN4
